US09120812B2
2 g of 3-amino2,2-dimethylpropan-1-ol (19.39 mmol) are placed in 40 ml of DCM. 2.56 g of imidazole (38.77 mmol) are added and the solution is cooled to +4° C. in an ice bath, followed by dropwise addition of 3.36 ml of tert-butyl(chloro)dimethylsilane (19.39 mmol). The medium is stirred for 30 minutes at +4° C., and the ice bath is then removed and the mixture is stirred at room temperature for 18 hours. The medium is then washed with water, and then with brine. The organic phase is dried over Na2SO4, filtered and concentrated to give 4.02 g of 3-(tert-butyldimethylsilanyloxy)-2,2-dimethylpropylamine.

reactant | 3-amino2,2-dimethylpropan-1-ol | 19.39 mmol, 2 g | NCC(CO)(C)C | C5H13NO
reactant | imidazole | 38.77 mmol, 2.56 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(chloro)dimethylsilane | 19.39 mmol, 3.36 ml | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-(tert-butyldimethylsilanyloxy)-2,2-dimethylpropylamine | 4.02 g | [Si](C)(C)(C(C)(C)C)OCC(CN)(C)C | C11H27NOSi
